US04518596
8-(N-Benzyl-butylamino)-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimido-[5,4-d]-pyrimdine
This compound was prepared analogous to Example 118 from 8-(N-benzyl-butylamino)-2-chloro-4-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine (m.p.: 153°-155° C.) and piperazine.

reactant | 8-(N-benzyl-butylamino)-2-chloro-4-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine | C(C1=CC=CC=C1)N(C1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)Cl)CCCC | C21H25ClN6OS
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-(N-Benzyl-butylamino)-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimido-[5,4-d]-pyrimdine | C(C1=CC=CC=C1)N(C1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)N2CCNCC2)CCCC | C25H34N8OS
